US07081456B2
Intermediate 12: Preparation of 4-(6-fluoro-3-oxothiochromeno[4,3-c]pyrazol-2(3H)-yl)benzoic acid
Methyl 8-fluoro-4-oxothiochromane-3-carboxylate (1.19 g, 4.95 mmol) and 4-hydrazinobenzoic acid (755 mg, 4.95 mmol) were mixed with glacial acetic acid (10 ml). The mixture was heated to reflux for 4 h. Excess acetic acid was removed under vacuum to give an orange oil. Ethyl acetate (10 ml) was added and the mixture sonicated. Precipitation of an orange solid was observed. The solids were collected by filtration and washed with ethyl acetate. The filter cake was taken up in dimethyl suphoxide (10 ml) and air-oxidised at room temperature for one week. Water (20 ml) was added to the reaction mixture, the solids were collected by filtration, slurried in ethyl acetate, filtered and dried under vacuum. The title compound was isolated as an orange powder (175 mg, 0.51 mmol, 10%). LCMS: m/z 341.

reactant | Methyl 8-fluoro-4-oxothiochromane-3-carboxylate | 4.95 mmol, 1.19 g | FC=1C=CC=C2C(C(CSC12)C(=O)OC)=O | C11H9FO3S
reactant | 4-hydrazinobenzoic acid | 4.95 mmol, 755 mg | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-(6-fluoro-3-oxothiochromeno[4,3-c]pyrazol-2(3H)-yl)benzoic acid | FC1=CC=CC2=C1SC=C1C2=NN(C1=O)C1=CC=C(C(=O)O)C=C1 | C17H9FN2O3S
